### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/GeneralLinearGroup): add lemmas on hom induced from a ring hom

### PR DESCRIPTION
**Pull request by judithludwig**
This PR adds some basic lemmas on the hom between GL(n)s 
induced from a ring hom to LinearAlgebra.Matrix.GeneralLinearGroup.Defs.lean .

Co-authored-by: Christian Merten (github: chrisflav).
Used in project Formalization of the Bruhat-Tits Tree.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 1]
```diff
@@ -147,6 +151,45 @@ theorem map_comp_apply (f : T →+* R) (g : R →+* S) (x : GL n T) :
...
+lemma map_det (g : GL n R) : Matrix.GeneralLinearGroup.det (map f g) =
+    Units.map f (Matrix.GeneralLinearGroup.det g) := by
+  ext
+  simp only [map, RingHom.mapMatrix_apply, Units.inv_eq_val_inv, Matrix.coe_units_inv,
+    Matrix.GeneralLinearGroup.val_det_apply, Units.coe_map, MonoidHom.coe_coe]
+  symm
+  apply RingHom.map_det
+
+lemma map_mul_map_inv (g : GL n R) : map f g * map f g⁻¹ = 1 := by
+  simp only [@map_inv, @mul_inv_cancel]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:178]:
```suggestion
  simp only [map_inv, mul_inv_cancel]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 2]
```diff
@@ -147,6 +151,45 @@ theorem map_comp_apply (f : T →+* R) (g : R →+* S) (x : GL n T) :
...
+
+lemma map_inv_mul_map (g : GL n R) : map f g⁻¹ * map f g = 1 := by
+  simp only [@map_inv, @inv_mul_cancel]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:181]:
```suggestion
  simp only [map_inv, inv_mul_cancel]
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 3]
```diff
@@ -147,6 +151,45 @@ theorem map_comp_apply (f : T →+* R) (g : R →+* S) (x : GL n T) :
...
+  ext
+  simp only [_root_.map_inv, coe_units_inv]
+
+lemma map_det (g : GL n R) : Matrix.GeneralLinearGroup.det (map f g) =
+    Units.map f (Matrix.GeneralLinearGroup.det g) := by
+  ext
+  simp only [map, RingHom.mapMatrix_apply, Units.inv_eq_val_inv, Matrix.coe_units_inv,
+    Matrix.GeneralLinearGroup.val_det_apply, Units.coe_map, MonoidHom.coe_coe]
+  symm
+  apply RingHom.map_det
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:175]:
```suggestion
  exact Eq.symm (RingHom.map_det f g.1)
```

**Review by CBirkbeck — COMMENTED** [review]
Other than those minor changes it LGTM!

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 4]
```diff
@@ -147,6 +151,44 @@ theorem map_comp_apply (f : T →+* R) (g : R →+* S) (x : GL n T) :
     (map g).comp (map f) x = map g (map f x) :=
   rfl
 
+variable (f : R →+* S)
+
+@[simp]
+lemma map_one : map f (1 : GL n R) = 1 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:157]: I would make the `map_*` lemmas protected

Comment (judithludwig) [reply Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: ok, I made the new `map_*` lemmas protected.

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
